US06255333B1
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-(2,2-difluoroethenyl)pyrazole
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-formylpyrazole (1.3 g), triphenylphosphine (5.1 g), dibromodifluoromethane (2 g) and dichloromethane (50 ml) were placed in a stainless steel bomb and heated and stirred at 70° C. for 3 hours. The reaction mixtiure was evaporated and the residue was purified by column chromatography on silica gel eluting with dichloromethane: hexane (9:1). Combination and evaporation of suitable fractions gave the title compound as a white solid, m.p. 75-77° C.

reactant | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-formylpyrazole | 1.3 g | C(#N)C1=NN(C=C1C=O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C12H4Cl2F3N3O
reactant | triphenylphosphine | 5.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dibromodifluoromethane | 2 g | BrC(F)(F)Br | CBr2F2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-(2,2-difluoroethenyl)pyrazole | C(#N)C1=NN(C=C1C=C(F)F)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H4Cl2F5N3
